US07727989B2
a) 6-Chloro-3-oxo-2,3-dihydropyridazine-4-carboxylic acid (2-amino-phenyl)amide
30.5 g of 6-chloro-3-oxo-2,3-dihydropyridazine-4-carboxylic acid, 18 g of ortho-phenylenediamine and 2 g of DMAP are dissolved in 800 ml of DMF, at room temperature 32.2 g of 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride are added, and the resulting solution is stirred at room temperature for 4 hours. For workup, the solvent is distilled off and the residue is suspended in water at 70° C. The precipitate is filtered off, washed several times with water and then dried in vacuo.

reactant | 6-chloro-3-oxo-2,3-dihydropyridazine-4-carboxylic acid | 30.5 g | ClC=1C=C(C(NN1)=O)C(=O)O | C5H3ClN2O3
reactant | ortho-phenylenediamine | 18 g | C1(=C(C=CC=C1)N)N | C6H8N2
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 32.2 g | Cl.C(C)N=C=NCCCN(C)C
catalyst | DMAP | 2 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DMF | 800 ml | CN(C)C=O | C3H7NO
product | 6-Chloro-3-oxo-2,3-dihydropyridazine-4-carboxylic acid (2-amino-phenyl)amide | NC1=C(C=CC=C1)NC(=O)C=1C(NN=C(C1)Cl)=O | C11H9ClN4O2
